US07666879B2
B. N-(4-Cyano-3-trifluoromethyl-phenyl)-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetamide
Dissolve 2-(4-bromo-phenyl)-N-(4-cyano-3-trifluoromethyl-phenyl)-acetamide (4.23 g, 11 mmol) in 125 mL dioxane, add bis(pinacolato)diboron (3.5 g, 13.8 mmol), tricyclohexylphosphine (386 mg, 1.38 mmol), and anhydrous potassium acetate (1.62 g, 16.5 mmol). Bubble nitrogen through the mixture for at least 15 minutes to deoxygenate, then add palladium (II) acetate (123 mg, 0.55 mmol), fit flask with a reflux condenser and heat at 80° C. under nitrogen atmosphere for 4 hours. Cool reaction mixture and pass through a 50 g silica cartridge with 400 mL EtOAc. Concentrate the clear brown eluate to a tan-gray solid and recrystallize from dichloromethane-hexanes to give 3.7 g (78%) of the title compound as tan-gray crystals. LCMS (ES) m/z 429 (M−1).

reactant | 2-(4-bromo-phenyl)-N-(4-cyano-3-trifluoromethyl-phenyl)-acetamide | 11 mmol, 4.23 g | BrC1=CC=C(C=C1)CC(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F | C16H10BrF3N2O
reactant | bis(pinacolato)diboron | 13.8 mmol, 3.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tricyclohexylphosphine | 1.38 mmol, 386 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 16.5 mmol, 1.62 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 125 mL | O1CCOCC1 | C4H8O2
catalyst | palladium (II) acetate | 0.55 mmol, 123 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | N-(4-Cyano-3-trifluoromethyl-phenyl)-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetamide | 3.7 g, 78% | C(#N)C1=C(C=C(C=C1)NC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C(F)(F)F | C22H22BF3N2O3
